### PR TITLE
Add uweight_partition_unique, move weight_1 to uweight_1, add Positional.eval_map_mul

### PR DESCRIPTION
**Pull request by JasonGross**
uweight_partition_unique can probably be generalized to not be specific to uniform weights, but that is left to a future person.

### CODE REVIEW

File: src/Experiments/NewPipeline/Arithmetic.v [hunk 1]
```diff
@@ -550,6 +550,18 @@ Module Positional. Section Positional.
   Lemma zeros_ext_map {A} n (p : list A) : length p = n -> zeros n = map (fun _ => 0) p.
   Proof using Type. cbv [zeros]; intro; subst; induction p; cbn; congruence. Qed.
 
+  Lemma eval_map_mul (n:nat) (a:Z) (p:list Z)
```
Comment (jadephilipoom) [inline src/Experiments/NewPipeline/Arithmetic.v]: Please rename this lemma. It might look similar to `Associational.eval_map_mul`, but the context is a bit different and having them share a name is confusing.

File: src/Experiments/NewPipeline/Arithmetic.v [hunk 2]
```diff
@@ -2878,7 +2896,38 @@ Module UniformWeight.
...
+  Qed.
+
+  Lemma uweight_partition_unique lgr (Hr : 0 < lgr) n ls :
+    length ls = n -> (forall x, List.In x ls -> 0 <= x <= 2^lgr - 1) ->
+    ls = Partition.partition (uweight lgr) n (Positional.eval (uweight lgr) n ls).
+  Proof using Type.
+    intro; subst n.
+    rewrite uweight_recursive_partition_equiv with (i:=0%nat) by assumption.
+    induction ls as [|x xs IHxs]; [ reflexivity | ].
+    repeat first [ progress cbn [List.length Partition.recursive_partition List.In] in *
```
Comment (jadephilipoom) [inline src/Experiments/NewPipeline/Arithmetic.v]: I'm surprised by how complex this proof looks (no action necessary)

File: src/Experiments/NewPipeline/Arithmetic.v (hunk 1 above)
Comment (JasonGross) [reply src/Experiments/NewPipeline/Arithmetic.v]: Suggested name?

File: src/Experiments/NewPipeline/Arithmetic.v (hunk 2 above)
Comment (JasonGross) [reply src/Experiments/NewPipeline/Arithmetic.v]: It's probably possible to simplify it.  I did a decent amount of arithmetic reasoning manually.

File: src/Experiments/NewPipeline/Arithmetic.v (hunk 1 above)
Comment (JasonGross) [reply src/Experiments/NewPipeline/Arithmetic.v]: Updated
